US04837394
PREPARATION 14 Benzylbis(4-acetoxyphenyl)phenylphosphonium bromide
A mixture of 3.8 g (0.01 mol) of bis(4-acetoxyphenyl)phenylphosphine, 1.7 g (0.01 mol) of α-bromotoluene and 15 ml of 1,1,1-trichloroethane was heated to reflux at which time complete solution was achieved. Shortly thereafter, product began to precipitate from solution. After heating at reflux for 2.5 hr, the mixture was cooled, filtered and the solid was washed with ether and dried. The yield of benzylbis(4-acetoxyphenyl)phenylphosphonium bromide was 5.0 g (90.0% of theory); mp=233°-5° C.

reactant | bis(4-acetoxyphenyl)phenylphosphine | 0.01 mol, 3.8 g | C(C)(=O)OC1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=C(C=C1)OC(C)=O | C22H19O4P
reactant | α-bromotoluene | 0.01 mol, 1.7 g | BrCC1=CC=CC=C1 | C7H7Br
reactant | 1,1,1-trichloroethane | 15 ml | ClC(C)(Cl)Cl | C2H3Cl3
product | Benzylbis(4-acetoxyphenyl)phenylphosphonium bromide | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=C(C=C1)OC(C)=O)C1=CC=C(C=C1)OC(C)=O | InChI=1S/C29H26O4P.BrH/c1-22(30)32-25-13-17-28(18-14-25)34(27-11-7-4-8-12-27,21-24-9-5-3-6-10-24)29-19-15-26(16-20-29)33-23(2)31;/h3-20H,21H2,1-2H3;1H/q+1;/p-1
